US04110455
1-keto-4-hydroxy-6-(o-chlorophenyl)-8-chloro-1,2-dihydro-4H-s-triazolo-(4,3-a)-pyrido-(2,3-f)-(1,4)-diazepine
9 grams of 1-keto-4-acetoxy-6-(o-chlorophenyl)-8-chloro-1,2-dihydro-4H-s-triazolo-(4,3-a)-pyrido-(2,3-f)-(1,4)-diazepine were stirred with 60 ml. of n-propanol and a mixture of 10 grams of powdered potassium hydroxide and 100 ml. of n-propanol added. The mixture was stirred for 15 minutes at room temperature. Then it was acidified with glacial acetic acid and 600 ml. of water added. The reaction product crystallized out. It was filtered off with suction and then washed with water. The product can be recrystallized from dimethylformamide-ether whereupon it is subsequently boiled with ethanol for 30 minutes for the complete removal of the dimethyl formamide. Yield 5 grams; M.P. 260°-262° C.

reactant | 1-keto-4-acetoxy-6-(o-chlorophenyl)-8-chloro-1,2-dihydro-4H-s-triazolo-(4,3-a)-pyrido-(2,3-f)-(1,4)-diazepine | 9 grams | O=C1NN=C2N1C1=C(C(=NC2OC(C)=O)C2=C(C=CC=C2)Cl)N=C(C=C1)Cl | C17H11Cl2N5O3
reactant | n-propanol | C(CC)O | C3H8O
reactant | potassium hydroxide | 10 grams | [OH-].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1-keto-4-hydroxy-6-(o-chlorophenyl)-8-chloro-1,2-dihydro-4H-s-triazolo-(4,3-a)-pyrido-(2,3-f)-(1,4)-diazepine | O=C1NN=C2N1C1=C(C(=NC2O)C2=C(C=CC=C2)Cl)N=C(C=C1)Cl | C15H9Cl2N5O2
